resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.994204
R2 0 n2 1.004944
R3 0 n4 1.011564
R4 n1 n3 1.006621
R5 n1 n5 1.003744
R6 n2 n3 0.998382
R7 n2 n6 1.003198
R8 n3 n7 0.981591
R9 n4 n5 0.993567
R10 n4 n6 1.000314
R11 n5 n7 1.013776
R12 n6 n7 1.003406
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
